US04474700
After being maintained at about 25° for 2 more days, the reaction mixture, which contained sodium 3-cyanotetrafluoropropionate, was treated with 69.3 g (0.55 mole) of dimethyl sulfate, stirred, and allowed to stand overnight. Fractionation of the volatile products gave 53.3 g (58%) of methyl 3-cyanotetrafluoropropionate, bp 90°-97°.

reactant | sodium 3-cyanotetrafluoropropionate | C(#N)C(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | dimethyl sulfate | 0.55 mole, 69.3 g | S(=O)(=O)(OC)OC | C2H6O4S
product | methyl 3-cyanotetrafluoropropionate | 53.3 g, 58% | C(#N)C(C(C(=O)OC)(F)F)(F)F | C5H3F4NO2
